US08283353B2
ethyl [(trans-4-{6-[(2′-cyanobiphenyl-4-yl)methyl]-5-oxo-7-propyl[1,2,4]triazolo[1,5-a]pyrimidin-4(5H)-yl}cyclohexyl)oxy]acetate
To a mixture of 4′-{[4-(trans-4-hydroxycyclohexyl)-5-oxo-7-propyl-4,5-dihydro[1,2,4]triazolo[1,5-a]pyrimidin-6-yl]methyl}biphenyl-2-carbonitrile (1 g), rhodium(I) acetate (0.023 g) and methylene chloride (10 mL) was added dropwise ethyl diazoacetate (0.64 mL) at room temperature, and the mixture was stirred for 1 hr. The reaction mixture was concentrated, and the obtained residue was subjected to silica gel column chromatography to give the title compound as a colorless solid (0.68 g, 59%).

reactant | 4′-{[4-(trans-4-hydroxycyclohexyl)-5-oxo-7-propyl-4,5-dihydro[1,2,4]triazolo[1,5-a]pyrimidin-6-yl]methyl}biphenyl-2-carbonitrile | 1 g | O[C@@H]1CC[C@H](CC1)N1C=2N(C(=C(C1=O)CC1=CC=C(C=C1)C=1C(=CC=CC1)C#N)CCC)N=CN2 | C28H29N5O2
reactant | ethyl diazoacetate | 0.64 mL | [N+](=[N-])=CC(=O)OCC | C4H6N2O2
catalyst | rhodium(I) acetate | 0.023 g | C(C)(=O)[O-].[Rh+]
solvent | methylene chloride | 10 mL | C(Cl)Cl | CH2Cl2
product | ethyl [(trans-4-{6-[(2′-cyanobiphenyl-4-yl)methyl]-5-oxo-7-propyl[1,2,4]triazolo[1,5-a]pyrimidin-4(5H)-yl}cyclohexyl)oxy]acetate | 0.68 g, 59% | C(#N)C1=C(C=CC=C1)C1=CC=C(C=C1)CC=1C(N(C=2N(C1CCC)N=CN2)[C@@H]2CC[C@H](CC2)OCC(=O)OCC)=O | C32H35N5O4
